US06313137B1
Synthesis of 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide
8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide (3.3 g, 16.2 mmol), 2-ethyl-6-methylbenzylchloride (2.73 g, 16.2 mmol), potassium carbonate (8.0 g, 58 mmol) and potassium iodide (1.1 g, 6.6 mmol) were added to acetone (150 ml) and refluxed for 20 h. An additional amount of 2-ethyl-6-methylbenzylchloride (1.0 g, 5.9 mmol) was added and the reaction mixture was refluxed for 7 h. Methylene chloride (60 ml) and methanol (30 ml) were added. The reaction mixture was filtered and the solvents were evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride:methanol (100:7) as eluent. Crystallization from ethyl acetate gave 2.8 g (50%) of the title compound.

reactant | 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 16.2 mmol, 3.3 g | NC=1C=2N(C=C(C1)C(=O)N)C(=C(N2)C)C | C10H12N4O
reactant | 2-ethyl-6-methylbenzylchloride | 16.2 mmol, 2.73 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | potassium carbonate | 58 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.6 mmol, 1.1 g | [I-].[K+]
reactant | 2-ethyl-6-methylbenzylchloride | 5.9 mmol, 1.0 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
solvent | methanol | 30 ml | CO | CH4O
solvent | Methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 2.8 g, 50% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)N)C1C | C20H24N4O
